US07507740B2
Production of 4-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzoic acid hydrochloride
A mixture of ethyl 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate hydrochloride (517 mg), 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (462 mg) and 1-methyl-2-pyrrolidinone (8 mL) was stirred at 140° C. for 5 hrs, poured into water (40 mL), and adjusted to pH 8 with saturated aqueous sodium hydrogen carbonate. The precipitated solid was collected by filtration, washed with water and suspended in methanol (15 mL). After stirring at room temperature for 30 min, the solid was collected by filtration and dried under reduced pressure at 60° C. The obtained solid was suspended in ethanol (10 mL) and 1N aqueous sodium hydroxide solution (1.5 mL) was added. After stirring at room temperature for 6.5 hrs, and at 60° C. for 3.5 hrs, the mixture was cooled to room temperature. 1N Hydrochloric acid (155 mL) was added, and the precipitated solid was collected by filtration, washed with water and dried under reduced pressure at 60° C. to give the title compound (498 mg).

reactant | ethyl 4-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-6-yl)benzoate hydrochloride | 517 mg | Cl.ClC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)OCC)C=C2
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 462 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
reactant | 1-methyl-2-pyrrolidinone | 8 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 40 mL | O | H2O
product | 4-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-6-yl]benzoic acid hydrochloride | 498 mg | Cl.ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=C(N2)C2=CC=C(C(=O)O)C=C2 | InChI=1S/C26H18ClFN4O3.ClH/c27-20-11-19(8-9-23(20)35-13-15-2-1-3-18(28)10-15)31-25-24-22(29-14-30-25)12-21(32-24)16-4-6-17(7-5-16)26(33)34;/h1-12,14,32H,13H2,(H,33,34)(H,29,30,31);1H
